US07645753B2
2-(1-Ethoxycarbonyl-piperidin-4-ylamino)-benzooxazole-7-carboxylic acid methyl ester
To a solution of 2-chloro-benzooxazole-7-carboxylic acid methyl ester (0.43 g, 2.05 mmol, 1.0 equiv) in acetonitrile (30 mL) was added ethyl 4-amino-1-piperidine carboxylate (0.64 g, 3.08 mmol, 1.5 equiv) and the reaction mixture heated to reflux for 30 min. The solvent was removed under reduced pressure and the crude material purified with column chromatography on silica eluting with dichloromethane/methanol (4:1) to afforded 0.68 g (95%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.19 (t, J=7.0 Hz, 3H), 1.38-1.51 (m, 2H), 1.95-2.00 (m, 2H), 2.96-3.03 (m, 2H), 3.78-3.81 (m, 1H), 3.89 (s, 3H), 3.82-3.96 (m, 2H), 4.04 (q, J=7.0 Hz, 2H), 7.23 (t, J=7.9 Hz, 1H), 7.50 (dd, J=7.9 Hz, J=1.9 Hz, 2H), 8.34 (d, J=7.3 Hz, 2H). 13C NMR (75 MHz, DMSO): δ 14.54, 31.01, 42.04, 49.71, 52.05, 60.63, 112.36, 119.98, 121.27, 123.51, 144.77, 147.00, 154.57, 162.13, 164.17. MS (ISP): 347.9 [M+H]+.

reactant | 2-chloro-benzooxazole-7-carboxylic acid methyl ester | 2.05 mmol, 0.43 g, 1.0 equiv | COC(=O)C1=CC=CC=2N=C(OC21)Cl | C9H6ClNO3
reactant | ethyl 4-amino-1-piperidine carboxylate | 3.08 mmol, 0.64 g, 1.5 equiv | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(1-Ethoxycarbonyl-piperidin-4-ylamino)-benzooxazole-7-carboxylic acid methyl ester | 0.68 g, 95% | COC(=O)C1=CC=CC=2N=C(OC21)NC2CCN(CC2)C(=O)OCC | C17H21N3O5
